US06498170B2
Azetidin-3-yl-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propyl]-carbamicacid tert-butyl ester
To a solution of (1-Benzhydryl-azetidin-3-yl)-[(2S)-3-(4-benzyloxy-phenoxy)-2-hydroxy-propyl]-carbamic acid tert-butyl ester (0.55 g, 0.9 mmol) in methanol (20 ml) was added ammonium formate (2.0 g, 30 mmol), and 0.2 g of 10% Pd/C. The mixture was stirred at reflux for 18 h. After cooling to room temperature, it was filtered through Celite. The solvent was evaporated to give 0.31 g of a beige solid; m.p. 130-134° C.; MS (ES) m/z 339.1 (MH+); HRMS (El) Calcd. for C37H42N2O5 (M+): 338.1841, Found: 338.1833.

reactant | (1-Benzhydryl-azetidin-3-yl)-[(2S)-3-(4-benzyloxy-phenoxy)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | 0.9 mmol, 0.55 g | C(C)(C)(C)OC(N(C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H42N2O5
reactant | ammonium formate | 30 mmol, 2.0 g | C(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | Azetidin-3-yl-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propyl]-carbamicacid tert-butyl ester | 0.31 g | C(C)(C)(C)OC(N(C[C@@H](COC1=CC=C(C=C1)O)O)C1CNC1)=O | C17H26N2O5
